US06589970B2
Bromine (556 μL, 10.8 mL) in 10 mL of glacial HOAc was added under nitrogen dropwise over 1 h to a solution of 6-methoxy-naphthalene-2-carbaldehyde (2.01 g, 10.8 mmol) in 25 mL of glacial HOAc at room temperature. After the addition the reaction was stirred at room temperature for 2 h. The solid was collected by filtration, rinsed with glacial HOAc and dried under reduced pressure to give 5-bromo-6-methoxy-naphthalene-2-carbaldehyde (2.27 g, 79%) as a tan solid, mp 148-150° C.

reactant | Bromine | 556 μL | BrBr | Br2
reactant | 6-methoxy-naphthalene-2-carbaldehyde | 10.8 mmol, 2.01 g | COC=1C=C2C=CC(=CC2=CC1)C=O | C12H10O2
solvent | HOAc | 10 mL | CC(=O)O | C2H4O2
solvent | HOAc | 25 mL | CC(=O)O | C2H4O2
product | 5-bromo-6-methoxy-naphthalene-2-carbaldehyde | 2.27 g, 79% | BrC1=C2C=CC(=CC2=CC=C1OC)C=O | C12H9BrO2
